US05047411
A mixture of 3-[3-(3-ethylureido)-4-hydroxybenzyl]-2,7-dimethylimidazo[1,2-a]pyridine (3.7 g) and polyphosphate ester (37 g) was stirred at 110° to 120° C. for one hour. The reaction mixture was dissolved in a mixture of ethyl acetate and water and the resultant solution was acidified to pH 1.0 with 10% hydrochloric acid. The separated aqueous layer was adjusted to pH 8.0 with aqueous 20% potassium carbonate and extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was subjected to column chromatography on alumina. The fraction eluted with a mixture of chloroform and methanol (98:2 V/V) was collected and the solvent was evaporated in vacuo and the residue was recrystallized from a mixture of chloroform and diethyl ether to give 5-(2,7-dimethylimidazo[1,2-a]pyridin-3-ylmethyl)-2-ethylaminobenzoxazole (0.9 g).

reactant | 3-[3-(3-ethylureido)-4-hydroxybenzyl]-2,7-dimethylimidazo[1,2-a]pyridine | 3.7 g | C(C)NC(NC=1C=C(CC2=C(N=C3N2C=CC(=C3)C)C)C=CC1O)=O | C19H22N4O2
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-(2,7-dimethylimidazo[1,2-a]pyridin-3-ylmethyl)-2-ethylaminobenzoxazole | 0.9 g | CC=1N=C2N(C=CC(=C2)C)C1CC=1C=CC2=C(N=C(O2)NCC)C1 | C19H20N4O
